US07160892B2
2-Amino-3-ethyl-6-(3-fluorophenyl)-5-(6-oxo-1-phenyl-1,6-dihydro-3-pyridinyl)-3,4-dihydro-4-pyrimidinone
In a flask were placed 2-amino-3-ethyl-6-(3-fluorophenyl)-5-(6-oxo-1,6-dihydro-3-pyridinyl)-3,4-dihydro-4-pyrimidinone (20 mg, 0.06 mmol), copper acetate (3 mg, 0.01 mmol), phenylboronic acid (15 mg, 0.12 mmol), pyridine (11 μL, 0.12 mmol) and N,N-dimethylformamide (1 mL), followed by stirring at room temperature for 24 hours. After filtering off the insoluble matters, the filtrate was purified by HPLC, to give the title compound (8 mg).

reactant | 2-amino-3-ethyl-6-(3-fluorophenyl)-5-(6-oxo-1,6-dihydro-3-pyridinyl)-3,4-dihydro-4-pyrimidinone | 0.06 mmol, 20 mg | NC1=NC(=C(C(N1CC)=O)C1=CNC(C=C1)=O)C1=CC(=CC=C1)F | C17H15FN4O2
reactant | phenylboronic acid | 0.12 mmol, 15 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 0.12 mmol, 11 μL | N1=CC=CC=C1 | C5H5N
catalyst | copper acetate | 0.01 mmol, 3 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-Amino-3-ethyl-6-(3-fluorophenyl)-5-(6-oxo-1-phenyl-1,6-dihydro-3-pyridinyl)-3,4-dihydro-4-pyrimidinone | 8 mg | NC1=NC(=C(C(N1CC)=O)C1=CN(C(C=C1)=O)C1=CC=CC=C1)C1=CC(=CC=C1)F | C23H19FN4O2
